US08193349B2
To a slurry of NaH (440 mg, 11 mmol) in THF (22 mL) is added trans-1,4-cyclohexanedimethanol (1.44 g, 10 mmol) at 0° C., and the mixture is stirred for 1 hour while warming to room temperature. Benzyl bromide (1.2 mL, 10 mmol) is added dropwise followed by TBAI (185 mg, 0.5 mmol). The reaction is heated to 60° C. for 15 hours. After cooling to room temperature, H2O is added, and the mixture is extracted with EtOAc. The combined organic layer after dried over MgSO4 is concentrated to obtain (4-benzyloxymethyl-cyclohexyl)-methanol as clear oil (1.40 g, 60%) after purification.

reactant | NaH | 11 mmol, 440 mg | [H-].[Na+]
reactant | trans-1,4-cyclohexanedimethanol | 10 mmol, 1.44 g | [C@H]1(CC[C@H](CC1)CO)CO | C8H16O2
reactant | Benzyl bromide | 10 mmol, 1.2 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | H2O | O | H2O
solvent | THF | 22 mL | C1CCOC1 | C4H8O
catalyst | TBAI | 0.5 mmol, 185 mg | CCCC[N+](CCCC)(CCCC)CCCC.[I-]
product | (4-benzyloxymethyl-cyclohexyl)-methanol | 1.40 g, 60% | C(C1=CC=CC=C1)OCC1CCC(CC1)CO | C15H22O2
